US06794518B1
Step A: Synthesis of ethyl 1-[3-(pyrimidin-2-ylamino)propyl]-1H-indazole-5-carboxylate
Ethyl 1-(3-oxopropyl)-1H-indazole-5-carboxylate (1.0 g, 4.06 mmol, prepared as described in Jadhav et al, U.S. Pat. No. 5,760,028) was dissolved in toluene (15 mL) and 2-aminopyrimidine (463 mg, 4.9 mmol) added, along with anhydrous magnesium sulfate (2.44 g, 20 mmmol) under nitrogen. The mixture was vigorously stirred for six hours, filtered under nitrogen, the solids washed (10 mL toluene), and the filtrate treated with sodium triacetoxyborohydride (8.6 g, 40 mmol). The reaction was stirred under nitrogen for 18 hours, diluted with toluene (25 mL), and poured into water (100 mL). Saturated sodium bicarbonate solution (80 mL) was added to adjust pH>8. The layers were separated and the aqueous layer extracted with three portions of ethyl acetate. The combined organics were washed with saturated bicarbonate solution, water, and brine, dried over sodium sulfate, filtered, and concentrated under vacuum to afford a golden oil (1.3 g). This purified by preparative HPLC (Vydac C18, 21.2 mm×25 cm, 90% acetonitrile/water/0.1% TFA; 10-70% B over 30 minutes). The product fractions were frozen and lyophilized to afford the desired product as a white powder (520 mg, 40%). LRMS (ES): 326.2 ([M+H]+. HRMS: Calculated for C17H20N5O2: 326.1617; Found: 326.1605. 1HNMR (600.1343 MHz, CDCl3): 9.68 (bs, 1H), 8.58 (m, 1H), 8.49 (s, 1H), 8.12 (s, 1H), 8.08 (m, 1H), 8.03, (t, 1H), 7.50 (d, 1H), 6.73 (t, 1H), 4.55 (m, 2H), 4.39 (q, 2H), 3.36 (m, 2H), 2.35 (m, 2H), 1.41 (t,3H).

reactant | Ethyl 1-(3-oxopropyl)-1H-indazole-5-carboxylate | O=CCCN1N=CC2=CC(=CC=C12)C(=O)OCC | C13H14N2O3
reactant | 2-aminopyrimidine | 4.9 mmol, 463 mg | NC1=NC=CC=N1 | C4H5N3
reactant | magnesium sulfate | 2.44 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium triacetoxyborohydride | 40 mmol, 8.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | ethyl 1-[3-(pyrimidin-2-ylamino)propyl]-1H-indazole-5-carboxylate | 1.3 g | N1=C(N=CC=C1)NCCCN1N=CC2=CC(=CC=C12)C(=O)OCC | C17H19N5O2
